US07351726B2
Step 8: Synthesis of Z-N-[3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enyl]-hydroxylamine:
A solution of TFA (5 mL) in methylene chloride (10 mL) was added dropwise to the cold (ice bath) solution of tert-butyl (2Z)-3-(3-benzyl-2-ethyl-1-benzofuran-6-yl)pent-2-enyl[(tert-butoxycarbonyl)oxy]carbamate (4.0 g; 7.45 mmol) in methylene chloride (25 mL). The mixture was stirred at ° C. for 1 hour and at room temperature for 1 hour and solvent evaporated. The residue was extracted with ethyl acetate, washed with sodium bicarbonate solution, water, and evaporated to dryness. The residue was chromatographed on silica gel using 2% ethyl acetate in hexane as an eluent to give the title compound (1.8 g) as an oil. 1HNMR (400 MHz, DMSO-d6): δ 0.85 (t, 2H, J=7.25 Hz), 1.05 (t, 3H, J=7.47 Hz), 1.2-1.25 (m, 6H), 2.35 (q, 2H, J=7.47 Hz), 2.85 (q, 3H, J=7.47 Hz), 3.95 (d, 2H, J=6.59 Hz), 3.96 (s, 2H), 5.55 (t, 1H, J=6.59 Hz), 6.05 (brs, 1H), 6.95 (dd, 1H, J=7.9, 1.32 Hz), 7.22-7.35 (m, 7H).

reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (2Z)-3-(3-benzyl-2-ethyl-1-benzofuran-6-yl)pent-2-enyl[(tert-butoxycarbonyl)oxy]carbamate | 7.45 mmol, 4.0 g | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC(=C2)\C(=C/CN(C(OC(C)(C)C)=O)OC(=O)OC(C)(C)C)\CC)CC | C32H41NO6
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | Z-N-[3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enyl]-hydroxylamine | 1.8 g | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC(=C2)\C(=C/CNO)\CC)CC | C22H25NO2
